US07683067B2
3-[5-({4-[2-(Dipropylamino)ethyl]piperazin-1-yl}sulfonyl)pyridin-2-yl]-2-hydroxy-1H-indole-6-carbonitrile hydrochloride
To a suspension of sodium hydride (97%, 0.024 g, 1.0 mmol) in 1-methyl-2-pyrrolidinone (1.5 mL) was added (2-{4-[(6-chloropyridin-3-yl)sulfonyl]piperzin-1-yl}ethyl)dipropylamine (0.194 g, 0.5 mmol) at room temperature followed by addition of 2-oxoindoline-6-carbonitrile (0.095 g, 0.6 mmol). The formed mixture was stirred for 5 min under an N2 atmosphere and stirred for 1 h at 90° C. The cooled solution was poured into a cold saturated aqueous sodium hydrogen carbonate solution and the resulting precipitate was collected by filtration. The crude product was purified on a silica gel column using chloroform/methanol/triethylamine, (100:80:1), as the eluent to give 0.130 g (51% yield) of the title compound as the base. The base (0.127 g, 0.25 mmol) was dissolved in chloroform/methanol, (1:1), and treated with HCl in diethyl ether (1 M) at 0° C. The resulting orange crystals were collected by filtration and washed with diethyl ether to obtain 0.125 g (86% yield) of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 11.07 (s, 1H), 8.67 (s, 1H), 7.89 (s, 2H), 7.78 (d, J=8.0 Hz, 1H), 7.44 (dd, J=8.0, 1.2 Hz, 1H), 7.28 (d, J=1.2 Hz, 1H), 4.04 (br s, 10H), 3.05 (br s, 6H), 1.69 (br s, 4H), 0.91 (t, J=7.2 Hz, 6H); MS (EI) m/z 511 (M++1).

reactant | sodium hydride | 1.0 mmol, 0.024 g | [H-].[Na+]
reactant | (2-{4-[(6-chloropyridin-3-yl)sulfonyl]piperzin-1-yl}ethyl)dipropylamine | 0.5 mmol, 0.194 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)CCN(CCC)CCC | C17H29ClN4O2S
reactant | 2-oxoindoline-6-carbonitrile | 0.6 mmol, 0.095 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1-methyl-2-pyrrolidinone | 1.5 mL | CN1C(CCC1)=O | C5H9NO
product | 3-[5-({4-[2-(Dipropylamino)ethyl]piperazin-1-yl}sulfonyl)pyridin-2-yl]-2-hydroxy-1H-indole-6-carbonitrile hydrochloride | 0.130 g, 51% yield | Cl.C(CC)N(CCN1CCN(CC1)S(=O)(=O)C=1C=CC(=NC1)C1=C(NC2=CC(=CC=C12)C#N)O)CCC | InChI=1S/C26H34N6O3S.ClH/c1-3-9-30(10-4-2)11-12-31-13-15-32(16-14-31)36(34,35)21-6-8-23(28-19-21)25-22-7-5-20(18-27)17-24(22)29-26(25)33;/h5-8,17,19,29,33H,3-4,9-16H2,1-2H3;1H
